US06281227B1
C. N-(3-Amino-pyridin-4-yl)-2-[3-(S)-(7-methoxy-naphthalene-2-sulfonylamino)-2-oxopyrrolidin-1-yl]-acetamide
Triethylamine (0.13 g, 1.3 mmol) and isobutyl chloroformate (0.18 g, 1.3 mmol) are added to a solution of [3-(S)-(7-methoxy-naphthalene-2-sulfonylamino)-2-oxopyrrolidin-1-yl]-acetic acid (0.5 g, 1.3 mmol) in THF (15 mL) at −10° C. The mixture is stirred for 20 minutes then treated with a solution of 3,4-diaminopyridine (0.16 g, 1.5 mmol) in DMF (5 mL). The resulting mixture is warmed to room temperature and stirred for 3 hours. The reaction mixture is concentrated in vacuo, then diluted with methylene chloride. The organic layer is washed with brine, dried over MgSO4, filtered and concentrated. The residue is purified by flash chromatography (5-8% MeOH/CH2Cl2). to give the title compound (0.27 g, 0.58 mmol) as a solid.

reactant | Triethylamine | 1.3 mmol, 0.13 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.3 mmol, 0.18 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | [3-(S)-(7-methoxy-naphthalene-2-sulfonylamino)-2-oxopyrrolidin-1-yl]-acetic acid | 1.3 mmol, 0.5 g | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H]1C(N(CC1)CC(=O)O)=O | C17H18N2O6S
reactant | 3,4-diaminopyridine | 1.5 mmol, 0.16 g | NC=1C=NC=CC1N | C5H7N3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(3-Amino-pyridin-4-yl)-2-[3-(S)-(7-methoxy-naphthalene-2-sulfonylamino)-2-oxopyrrolidin-1-yl]-acetamide | 0.58 mmol, 0.27 g | NC=1C=NC=CC1NC(CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O)=O | C22H23N5O5S
